Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fall from ladder 12', -HS, -LOC, R proximal humorous fx
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old M s/p fall from ___ feet from ladder on to R hip 
and R shoulder, no loss of consciousness, landed on dirt/mulch. 
No heatstroke. + epistaxis. A and O x3. Reports R shoulder and R 
hip pain. 
 
Past Medical History:
MI and TIA related to subtherapeutic INR. AVR. 
 
Social History:
___
Family History:
mother breast cancer. father brain cancer. 
 
Physical Exam:
Eyes - conjunctiva wnl, pupils 2mm PERRLA
ENT - nose with dried blood, lips/teeth/ oral wnl. 
Neck - c collar in place
Resp - wnl
cardiovascular - wnl
Chest - R shoulder TTP, R hip TTP
GI - wnl
GU - wnl 
MSK - no deformity
Skin - wnl
Neuro - wnl
Psych -wnl
 
Brief Hospital Course:
The patient presented to Emergency Department with trauma as 
described in HPI. He had non operative management of his humerus 
fracture. He was initially on a heparin drip for his recent AVR 
and need for anticoagulation, which was transitioned to coumadin 
with lovenox bridge. He was transferred to the floor. ___ 
worked with him during the admission. For his humerus fracture 
per orthopedic recommendations, he was non weight bearing at ___ 
___, ___ to remove for elbow range of motion and pendulum 
exercises, will follow up in ___ in two weeks. His 
tertiary survey was done prior to discharge. At the time of 
discharge, the patient was doing well, afebrile and 
hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge ___

 
Medications on Admission:
-
 
Discharge Medications:
1.  Acetaminophen 975 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Enoxaparin Sodium 120 mg SC BID AVR mechanical 
RX *enoxaparin 120 mg/0.8 mL 120 mg twice a day Disp #*20 
Syringe Refills:*1 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ capsule(s) by mouth every four (4) hours 
Disp #*15 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R comminuted humeral fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ for a trauma after a fall. You were 
found to have a R arm fracture which was evaluated by orthopedic 
surgery, who recommended keeping your right upper extremity in a 
sling (ok to remove for elbow range of motion and pendulum 
exercises). You are to follow up with the ortho trauma clinic in 
two weeks. 

Given your history of a mechanical aortic valve on Coumadin, you 
should take Lovenox as a bridge until you reach your target INR 
of 2.5-3.5. You should continue to follow up in your ___ 
clinic for appropriate monitoring and further instruction. 

Your injury caused a R proximal humerus fracture which can cause 
severe pain, for which you may require medication. 
 
* You should take your pain medication as directed. 
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.

If you are having increasing pain that is not controlled by your 
medication regimen, please call your doctor. If you have any 
worsening or new symptoms that are concerning to you, please 
call your doctor. 

You may resume all of your normal home medications. 
 
Followup Instructions:
___